US05710139
A mixture of α-(benzyloxycarbonylamino)-3-(diethylphosphonomethyl)-6,7-dimethoxy-2-quinolineacrylic acid methyl ester (0.14 g, 0.25 mmol) and a catalytic amount of palladium on charcoal (10%) in MeOH (10 ml) was hydrogenated at 4 bar for 20 h. Filtration and chromatographic purification gave 0.09 g α-amino-3-(diethylphosphonomethyl)-6,7-dimethoxy-2-quinolinepropanoic acid methyl ester.

reactant | α-(benzyloxycarbonylamino)-3-(diethylphosphonomethyl)-6,7-dimethoxy-2-quinolineacrylic acid methyl ester | 0.25 mmol, 0.14 g | COC(C(=CC1=NC2=CC(=C(C=C2C=C1CP(=O)(OCC)OCC)OC)OC)NC(=O)OCC1=CC=CC=C1)=O | C28H33N2O9P
catalyst | palladium on charcoal | [Pd] | Pd
solvent | MeOH | 10 ml | CO | CH4O
product | α-amino-3-(diethylphosphonomethyl)-6,7-dimethoxy-2-quinolinepropanoic acid methyl ester | 0.09 g | COC(C(CC1=NC2=CC(=C(C=C2C=C1CP(=O)(OCC)OCC)OC)OC)N)=O | C20H29N2O7P
